US08304419B2
Step A: [4,5-dibromo-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazol-2-yl]methanol
n-BuLi (3.16 mL of a 1.6 M solution in hexanes, 4.96 mmol) was added dropwise to a −78° C. solution of 2,4,5-tribromo-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole (2.16 g, 4.96 mmol) in THF (50 mL). After 30 min, paraformaldehyde (0.74 g, 24.82 mmol) was added. The reaction mixture was warmed to RT, stirred overnight, quenched by addition of sat'd NH4Cl and extracted with EtOAc. The organic phase was dried (Na2SO4), filtered, and purified by silica gel chromatography (5-60% EtOAc/hex) to afford the title compound (0.57 g, 302%) as a clear oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 5.44 (d, J=0.46 Hz, 2H), 4.74-4.88 (m, 2H), 3.49-3.69 (m, 2H), 0.88-1.02 (m, 2H), −0.13-0.22 (m, 9H).

reactant | n-BuLi | [Li]CCCC
reactant | 2,4,5-tribromo-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole | 4.96 mmol, 2.16 g | BrC=1N(C(=C(N1)Br)Br)COCC[Si](C)(C)C | C9H15Br3N2OSi
reactant | paraformaldehyde | 24.82 mmol, 0.74 g | C=O | CH2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | [4,5-dibromo-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazol-2-yl]methanol | 0.57 g, 302% | BrC=1N=C(N(C1Br)COCC[Si](C)(C)C)CO | C10H18Br2N2O2Si
